data/mechanism_extracts/NatCatal/10.1038_s41929-018-0198-y.json
{"doi": "10.1038_s41929-018-0198-y", "journal": "NatCatal", "is_review": false, "rxn_class_summary": "Electricity-driven asymmetric rhodium-catalyzed oxidative cross-coupling of 2-acyl imidazoles with silyl enol ethers to give non-racemic 1,4-dicarbonyl compounds.", "mechanism_family": ["radical_anodic", "electrocatalysis_inner_sphere", "radical_cation"], "electrochemical_role": "Anodic single-electron oxidation of the chiral Rh-bound enolate (Rh2-1a, E_p^ox = +0.52 V vs Ag/AgCl) generates a Rh-coordinated alpha-carbon radical; a second anodic SET after silyl enol ether addition gives an oxocarbenium that is trapped by MeOH; cathode reduces protons to H2.", "key_intermediates": [{"name": "Rh(III)-bound 2-acyl imidazole substrate complex (I)", "smiles": null, "role": "resting_state"}, {"name": "Rh-bound enolate (II), characterized as Rh2-1a (X-ray)", "smiles": null, "role": "reactive"}, {"name": "Rh-bound alpha-carbon radical / radical cation [Rh2-1a]·+ (III)", "smiles": null, "role": "reactive"}, {"name": "Rh-bound secondary ketyl-type radical after silyl enol ether addition (IV)", "smiles": null, "role": "transient"}, {"name": "Rh-bound oxocarbenium intermediate (V) after second SET", "smiles": null, "role": "transient"}], "electron_flow": "The chiral Rh-Lewis acid binds the acyl imidazole and deprotonation gives a Rh-enolate that is anodically oxidized (1.5 V lower potential than free enol ether) to a Rh-bound alpha-radical; this radical adds to the silyl enol ether, the resulting beta-OTMS ketyl radical is oxidized again at the anode to an oxocarbenium, which is desilylated/trapped by MeOH to release product, while protons are reduced at the cathode to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Electrolysis of 1a with TEMPO (without 2a) gave TEMPO-adduct 7 in 92% yield with 92% current efficiency; the 2a-derived TEMPO adduct 8 was not observed, supporting trapping of the Rh-bound alpha-radical [Rh2-1a]·+ rather than a silyl-enol-ether-derived radical."}, {"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "intermediate_trap", "observation": "Reaction of 1a with DPE in absence of 2a gave three-component product 9 (51%, 99% e.e.) via [Rh2-1a]·+ addition to DPE, further oxidation and MeOH trapping, supporting the proposed cationic intermediate V."}, {"name": "Rh2-1a (isolated Rh-enolate complex)", "smiles": null, "purpose": "intermediate_trap", "observation": "Synthesized, crystallographically characterized (shielding of re face by bulky TMS); cyclic voltammetry shows reversible-type oxidation at +0.52 V vs Ag/AgCl, ~1.5 V lower than the silyl enol ether 2a (+1.72 V) and the free acyl imidazole 1a (>2 V), identifying it as the species actually oxidized."}, {"name": "Cyclic voltammetry of 1a + 2,6-lutidine, 2a, Rh2, and Rh2-1a", "smiles": null, "purpose": "redox_probe", "observation": "Only Rh2-1a shows a low-potential oxidation wave at +0.52 V; free 1a and 2a require much higher potentials, demonstrating that catalyst-bound enolate formation enables the mild anodic oxidation."}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_other", "stoichiometric_intermediate", "cyclic_voltammetry", "isolation_of_intermediate"], "evidence_strength": "strong", "notes": "Chiral Lewis acid catalysis lowers oxidation potential of the substrate by ~1.5 V via enolate complexation, simultaneously preventing homocoupling by sequestering the radical and enforcing enantioselectivity (re-face shielded by bulky TMS group on the benzothiazole ligand). Stereochemistry of C-C bond formation occurs on the Rh-bound radical III; the second oxidation (III to V via IV) is proposed without direct kinetic evidence."}
